US07795272B2
A mixture of 580 mg (1.2 mmol) of 3-methyl-5-nitro-4-[5,5,5-trifluoro-4-(6-fluoro-4-methylchroman-4-ylmethyl)-4-hydroxypent-1-ynyl]benzonitrile and 1.4 g (24 mmol) of iron powder in 15 mL of ethanol and 10 mL of acetic acid was warmed to 80° C. After 30 minutes, the mixture was cooled and diluted with 50 mL of ethyl acetate and filtered through CELITE® filter aid. The filtrate was washed with three portions of saturated aqueous sodium bicarbonate, then washed with brine, dried over magnesium sulfate, and concentrated in vacuo to afford 500 mg (92%) of 3-amino-5-methyl-4-[5,5,5-trifluoro-4-(6-fluoro-4-methylchroman-4-ylmethyl)-4-hydroxypent-1-ynyl]benzonitrile as a brown oil.

reactant | 3-methyl-5-nitro-4-[5,5,5-trifluoro-4-(6-fluoro-4-methylchroman-4-ylmethyl)-4-hydroxypent-1-ynyl]benzonitrile | 1.2 mmol, 580 mg | CC=1C=C(C#N)C=C(C1C#CCC(C(F)(F)F)(O)CC1(CCOC2=CC=C(C=C12)F)C)[N+](=O)[O-] | C24H20F4N2O4
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | iron | 24 mmol, 1.4 g | [Fe] | Fe
product | 3-amino-5-methyl-4-[5,5,5-trifluoro-4-(6-fluoro-4-methylchroman-4-ylmethyl)-4-hydroxypent-1-ynyl]benzonitrile | 500 mg, 92% | NC=1C=C(C#N)C=C(C1C#CCC(C(F)(F)F)(O)CC1(CCOC2=CC=C(C=C12)F)C)C | C24H22F4N2O2
